US05994446
1 ml t-BuLi was added to 40 ml THF containing 3 ml DPE solution (0.392N) in cyclohexane and 2 ml LiCl solution at 0° C. The solution was then brought to the reaction temperature (from -78 to 40° C.), 3 ml of IBMA was added and allowed to polymerize for about 1 hour. Polymer was recovered by precipitation in 200 ml methanol. Note: here the reaction product of t-BuLi and DPE, that is 1,1-diphenyl-3,3-dimethylbutyl lithium (DDBLi), was used as an iniiator. As an alternative example, trimethylsilyl-methyllithium ((Me)3SiCH2Li) was used to directly polymerize IBMA without reacting with DPE. PIBMA of Mn as high as 100,000 with very narrow molecular weight range (<1.15) was obtained at temperature from -78 to 25° C. This is very interesting, since PMMA of narrow Mn distribution can only be obtained at temperature lower than -60° C. by usual anionic polymerization techniques, even with sterically hindered initiator, such as DDBLi, whereas trimethylsilymethyllithium is not very sterically hindered and still produces PIBMA of very narrow Mn distribution at room temperature.

reactant | t-BuLi | 1 ml | [Li]C(C)(C)C
reactant | THF | 40 ml | C1CCOC1 | C4H8O
reactant | IBMA | 3 ml | CC(=C)C(=O)OC1C[C@H]2CC[C@@]1(C2(C)C)C | C14H22O2
reactant | PMMA | CC(=C)C(=O)OC | C5H8O2
reactant | cyclohexane | C1CCCCC1 | C6H12
solvent | LiCl | 2 ml | [Li+].[Cl-]
product | DDBLi | C1(=CC=CC=C1)C(CC(C)(C)C)(C1=CC=CC=C1)[Li] | InChI=1S/C18H21.Li/c1-18(2,3)14-17(15-10-6-4-7-11-15)16-12-8-5-9-13-16;/h4-13H,14H2,1-3H3;
